### PR TITLE
[Merged by Bors] - feat: golf using gcongr throughout the library

### PR DESCRIPTION
**Pull request by hrmacbeth**
Following on from #4702, another hundred sample uses of the `gcongr` tactic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Bernstein.lean [hunk 1]
```diff
@@ -227,10 +239,8 @@ theorem bernsteinApproximation_uniform (f : C(I, ℝ)) :
   have nhds_zero := tendsto_const_div_atTop_nhds_0_nat (2 * ‖f‖ * δ ^ (-2 : ℤ))
   filter_upwards [nhds_zero.eventually (gt_mem_nhds (half_pos h)), eventually_gt_atTop 0] with n nh
     npos'
-  have npos : 0 < (n : ℝ) := by exact_mod_cast npos'
-  -- Two easy inequalities we'll need later:
-  have w₁ : 0 ≤ 2 * ‖f‖ := mul_nonneg (by norm_num) (norm_nonneg f)
-  have w₂ : 0 ≤ 2 * ‖f‖ * δ ^ (-2 : ℤ) := mul_nonneg w₁ (zpow_neg_two_nonneg _)
+  have npos : 0 < (n : ℝ) := by positivity
+  have w₂ : 0 ≤ δ ^ (-2 : ℤ) := zpow_neg_two_nonneg _ -- need a positivity extension for `zpow`
```
Comment (jcommelin) [inline Mathlib/Analysis/SpecialFunctions/Bernstein.lean:243]:
```suggestion
  have w₂ : 0 ≤ δ ^ (-2 : ℤ) := zpow_neg_two_nonneg _ -- TODO: need a positivity extension for `zpow`
```
for easy grepping

**Comment by mcdoll** [comment]
this is amazing
maintainer merge

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
